US04367238
Sodium borohydride (850 mg) was added slowly to a suspension of 2-hydroxy-3-(o-tolylthio)benzaldehyde (11 g) in methanol (50 ml) at temperature below 15° C., and the mixture was stirred at the same temperature for 15 minutes and then at room temperature for 30 minutes. Methanol was distilled off from the reaction mixture under reduced pressure, and the residue was dissolved in water, acidified with conc. hydrochloric acid and extracted with ethyl acetate. The extract was washed with water, dried and evaporated under reduced pressure. The residue was crystallized with aqueous ethanol to give 2-hydroxy-3-(o-tolylthio)benzyl alcohol (8.45 g), mp. 75°-77° C.

reactant | Sodium borohydride | 850 mg | [BH4-].[Na+]
reactant | 2-hydroxy-3-(o-tolylthio)benzaldehyde | 11 g | OC1=C(C=O)C=CC=C1SC1=C(C=CC=C1)C | C14H12O2S
solvent | methanol | 50 ml | CO | CH4O
product | 2-hydroxy-3-(o-tolylthio)benzyl alcohol | 8.45 g | OC1=C(CO)C=CC=C1SC1=C(C=CC=C1)C | C14H14O2S
